Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"Last night I was thinking up a suicide plan."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
"Ms. ___ is a ___ year old woman, ___ student, with 
psychiatric history of depression, GAD, and OCD who presents to 
the ED at the recommendation of her school counselor after 
endorsing suicidal ideation with plan to overdose.

Patient says for the past ___ days, she has had persistent 
thoughts of suicide and has been developing a suicide plan. She 
says she has been considering overdosing on medications, but has 
done research and realizes that overdosing is not very 
effective. She came to the conclusion that a gun shot would be 
most effective. She has been researching how to get a gun, and 
says it is pretty difficult to acquire one in ___. She 
says the officers on the ___ campus have guns and she was 
thinking of trying to get one from them or provoking them to 
shoot her. She says she ultimately does not want to cause anyone 
else any harm, though, and realizes this could be traumatic for 
the officer. She says she has thought about who she would write 
letters to and where she would kill herself (in her bathroom). 
She says she would want to minimize the impact on others, so 
would email her RA prior to her suicide, warning her not the 
enter her dorm room. Issues she has trouble reconciling include 
the pain her family would experience and who would care for her 
cat (would not want it to end up in a shelter).

She ultimately could not come up with a complete suicide plan 
she was comfortable with, so presented to her school counseling 
___ help. She says the school counselor then insisted she 
go to the hospital. 

She says she has felt this way before around ___ 
___. She says she made plans for a suicide, started writing 
letters, but ultimately her SI and depressed mood subsided, she 
thinking after starting abilify. 

Patient denies any recent stressors. She does note that 1 month 
ago, she stopped taking abilify and she says she only takes her 
Prozac sporadically. She says these medications do help her with 
symptoms of anxiety, depression, OCD, but she struggles to take 
them, and wishes she could be "normal" and not need meds. She 
says for the past couple weeks her mood has worsened and she has 
felt more down. She also has had less interest and motivation to 
do things and has had trouble concentrating. She says her mind 
increasingly goes to negative places for example, her friend 
___ text her back and she assumed she hated her. She says she 
still goes to all her classes and spends times with friends, 
despite these feelings. 

She does carry diagnoses of anxiety, OCD, in addition of 
depression and describes her anxiety symptoms as feeling very 
nervous, especially in groups of people, and persistent thoughts 
and worries about if she is good enough. She describes her OCD 
as obsessive thoughts that someone or something will harm her or 
someone else. Compulsions include having to say "I love you" to 
her moms after a conversation with them.

Currently she continues to feel down, but thinks getting back on 
medications will be helpful and is amenable to hospitalization, 
should it be recommended." 

On admission to Deac4, the patient endorses all of the above. 
Additionally, that her suicidal thoughts used to associated with 
the intrusive thoughts she attributed to her OCD. A few weeks 
following the self discontinuation of Abilify, she began to 
think in a very methodical way about how to end her life. 
Protective factors for her were her cat, and not wanting to 
devastate her family. Pt states that ISO of telling of her 
experience multiple times in the hospital, she has realized that 
Abilify may have helped her significantly. "I didn't know that 
Abilify could change my thought processes so much." She "Likes 
to think [she's] in total control of [her] own mind" and thought 
taking "more medication" took that away from her. However, over 
the past day, she has "begun to realize just how much [she] has 
to live for," and is willing to work with the medical team to 
optimize her treatment. "I may as well take meds, if this is 
what happens when I don't." 

Currently denies SI, HI, and reports ability to come to staff 
should she have an inclination to harm herself or others. 
Reports feeling safe on the unit. 

REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: As above, also endorses mild loss of appetite, 
and denies fatigue, anhedonia, sleep disturbance including 
insomnia or hypersomnia.
---Anxiety: As above in HPI. Also endorses a history of panic 
attacks but hasn't had one in over 5 months.
---Mania: Denies recent symptoms of mania such as 
distractibility, erratic/risky behavior, grandiosity, flight of 
ideas, increased activity, decreased need for sleep, or 
talkativeness/pressured speech.  She does note that one time, 
she accidentally took one of her moms psychiatric medications, 
and had symptoms of mania including very high energy, decreased 
need for sleep, racing thoughts, grandiosity, and impulsivity.
---Psychosis: Denies symptoms of psychosis such as auditory or 
visual hallucinations, or delusions of reference, paranoia, 
thought insertion/broadcasting/withdrawal.
-General: reviewed and negative
  
ED Course: Good behavioral control, no restraints. 

Medication admins:
___
___ 23:06 PO/NGHydrOXYzine 25 mg
___ 08:09 PO/NGFLUoxetine 60 mg
 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
-Prior diagnoses: OCD, GAD, depression
-Hospitalizations: denies; she says her mom is a psychiatric
nurse and when she would "get bad" her mom would stay home with
her to avoid hospitalization
-Partial hospitalizations: denies
-Psychiatrist: Dr. ___ at ___ 
-Therapist: ___ at ___ 
-Medication trials: fluoxetine, abilify
-Suicide attempts: denies
-Self-injurious behavior: denies
-Harm to others: denies
-Trauma: denies 
-Access to weapons: denies 

  
Past medical history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
-Audiovisual learning disability 
-Denies history of head trauma, seizure.

Medications: 
-Prozac 60mg daily (been taking this sporadically)
-Self discontinued Abilify 2mg daily 
-Medications confirmed on OMR medication history 
  
Allergies: Penicillin

 
Social History:
Substance use history: Per Dr. ___ (___), 
confirmed with patient and updated as relevant:
-Tobacco: denies
-Alcohol: normally ___ drinks/week, recently ___ drinks a week 
while on ___
-Marijuana: denies 
-Other Drugs: Denies

Forensic history: Per Dr. ___ (___), confirmed
with patient and updated as relevant:
Denies

Personal and Social History: ___
Family History:
Family psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
-Psychiatric Diagnoses: no formal diagnoses- Birth mother may 
have depression
-Suicide Attempts/Completed Suicides: denies 
 
Physical Exam:
ADMISSION EXAM:
.
___ 1600 Temp: 98.6 PO BP: 129/85 HR: 90 RR: 16 O2 sat: 98% 

General: young overweight Caucasian woman appearing her stated 
age, somewhat disheveled, but overall well groomed, two nose 
piercings, glasses, wearing hospital gown, in no apparent 
distress
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation: 
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: Nasal phonation with 'S' sounds transmitted through 
a congested nasal cavity
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout. DTRs: 2+ and 
symmetrical throughout. Sensation: Intact to light touch 
throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Speech: normal rate, volume, and prosody, please see phonation
Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation
Mental Status:
Appearance: No apparent distress, appears stated age, fairly
groomed, dressed in hospital gown, non-malodorous
Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
Mood and Affect: "Better" / euthymic, full range, inappropriate 
to situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or 
paranoia
Judgment and Insight: limited/limited
.
DISCHARGE EXAM:
Vitals:  T:97.9  BP:116/78  HR:89  RR:16  O2:96% 
Mental Status:
-Appearance: well-groomed young woman, dressed appropriately in 
street clothes, sitting up in chair in NAD
-Behavior: calm, makes appropriate eye contact, answers 
questions appropriately, no psychomotor slowing or agitation
-Attitude: pleasant, engaged
-Mood: "good"
-Affect: euthymic, bright, congruent with stated mood
-Speech: normal amount, normal volume and tone, rhythm normal
-Thought process: linear, goal-directed, no loose associations, 
some circumstantiality
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence based on current encounter
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: denies AVH and dose not appear to be 
responding to internal stimuli
-Insight: fair
-Judgment: fair

Cognition:
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, place, situation
-Memory: Not formally assessed but appears impaired to recent 
conversations on interview
-Language: Fluent ___ speaker, no paraphasic errors, 
appropriate to conversation

 
Pertinent Results:
___ 03:16PM BLOOD WBC-8.1 RBC-4.76 Hgb-13.5 Hct-41.1 MCV-86 
MCH-28.4 MCHC-32.8 RDW-12.8 RDWSD-39.7 Plt ___

___ 03:16PM BLOOD Neuts-65.2 ___ Monos-7.8 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-5.27 AbsLymp-2.00 AbsMono-0.63 
AbsEos-0.11 AbsBaso-0.05

___ 03:16PM BLOOD Glucose-95 UreaN-11 Creat-0.7 Na-141 
K-4.4 Cl-103 HCO3-24 AnGap-14

___ 07:30PM BLOOD ALT-20 AST-19 AlkPhos-99 TotBili-0.3

___ 07:30PM BLOOD Cholest-219*

___ 07:30PM BLOOD Triglyc-274* HDL-38* CHOL/HD-5.8 
LDLcalc-126

___ 07:30PM BLOOD TSH-0.99

___ 07:30PM BLOOD HCG-<5

___ 03:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ 05:45PM URINE Blood-NEG Nitrite-POS* Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR*

___ 05:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 7:30 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
 
Brief Hospital Course:
1)Legal/Safety:
On admission, patient signed a conditional voluntary agreement 
(section ___ and this legal status remained in place 
throughout hospital stay. She was also placed on 15 minute 
checks and this level of supervision remained in placed 
throughout hospital stay.
.
2)Psychiatric:
On admission, patient described about two weeks of worsening 
depressed mood with persistent suicidal thoughts in the ___ days 
prior to presentation, and actively making plans to commit 
suicide. This is in the setting of self discontinuing Abilify 
and sporadic use of Prozac. On mental status exam, she appeared 
euthymic, qualifying that she felt less distressed immediately 
upon admission as she felt "safe" and no longer felt the urge to 
consider suicide plans, which she later described as ego 
dystonic. She was notably linear, with goal oriented and 
coherent thought process.
.
Shortly after admission, patient reported that obsessive 
thoughts about suicide had resolved and she denied suicidal 
ideation for the remainder of hospital stay. Over the course of 
her admission, patient exhibited improving insight into the 
nature of this episode. Although unable to cite a specific 
inciting factor for this episode, patient did note recent 
feelings of isolation (patient had been alone over ___ break, 
and subsequently missed her appointment with her therapist due 
to a blizzard) and the uncertainty which comes with graduating 
from ___ with a plan that deviates from the path more 
commonly taken by her classmates (patient taking a gap year). 
She was able to describe multiple means of seeking safety within 
the community, including both of her mothers, her therapist, and 
the counseling center at ___. Patient expressed interest in 
continuing care with her current outpatient providers and 
remained future-oriented and enthusiastically engaged with 
treatment throughout her hospital stay.
.
The following psychiatric medications were offered on admission: 
fluoxetine 60mg daily; ARIPiprazole 1mg PO daily. Patient's home 
ARIPiprazole was increased to 2mg PO daily on ___. Patient 
reported some mild lightheadedness the day after increasing dose 
and was encouraged to increase her fluid intake. This symptom 
resolved after 48 hours and the patient denied any other side 
effects from dose increase, including involuntary movements, 
muscle cramps, headache, N/V, and diarrhea.
.
3)Groups/Milieu:
Patient was encouraged to participate in OT, SW, music, and 
meditation groups offered on the unit. She frequently attended 
these groups. Patient was noted to have positive and appropriate 
interactions with peers and staff during her stay on the unit.
.
4)Collateral/Family Involvement:
Patient gave verbal permission for the treatment team to contact 
her mother, ___, who lives in ___. Patient's 
mother was provided an update of her hospital course and was 
actively involved with discharge planning. Per mother, patient 
was diagnosed with OCD ___ years ago. During her fall semester 
of her sophomore year at ___, patient developed compulsions 
to self harm, but never acted on them. At that time it was her 
friends who first reported concern that she was becoming 
isolative and withdrawn. Patient felt that she could not leave 
her room because she was afraid that she would throw herself in 
front of a bus if she went
outside. She also at that time was not eating or drinking 
because she was afraid of her food being poisoned. 
.
It became apparent after this acute illness ___ years ago that 
the patient had been suffering from obsessive and intrusive 
thoughts for some years but had never sought help for them. She 
took two semesters off from school after this to enter treatment 
and recover. Mother felt it took her the rest of the ___ 
semester to regain her functioning, and she remained out of 
school in the ___ to continue with treatment.
.
Regarding this hospitalization, mother reports that ___ was 
isolated over ___ break. She speaks to her regularly on Skype 
and says that she noticed her daughter had not been attending to 
basic self care, such as showering, washing her clothes, and 
cleaning her room (usually her space is very tidy). The night 
prior to presentation, patient called her mother to disclose 
obsessive suicidal thoughts she was having, and mother 
instructed her to seek help.
.
Mother has been in touch with the patient over phone during 
hospital stay, and says that her daughter seems to be doing much 
better. Her thinking seems more clear and she is no longer in 
distress during their conversations. Mother was reassured to 
hear
that ___ therapist would be visiting her on the unit today 
and feels comfortable with patient being discharged tomorrow or 
___ to the care of her outpatient providers.
.
5)INFOMRED CONSENT
*Medication: Abilify (aripiprazole)
---Benefits: Treatment of depression
---Adverse effects: Dizziness, insomnia, akathisia, activation, 
nausea, orthostatic hypotension, constipation, headache, TD 
(theoretical), NMS(rare), seizures (rare), weight gain 
(unusual), sedation (unusual -- usually activating) 
Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above). 
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment. The patient understood the above and consented 
to begin the medication.

6)RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at 
an increased risk of harm to herself. Her static risk factors 
noted at that time include age, and chronic mental illness. The 
modifiable risk factors identified were as such: suicidal 
ideation with detailed plan, psychic turmoil, social 
isolation/withdrawal, severe anxiety, and disorganized behavior. 
These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment. Ms. 
___ is being discharged with many protective factors, 
including female sex, life satisfaction, future-oriented 
thinking, strong social/family supports, positive therapeutic 
relationship with outpatient providers, medication compliance, 
good coping skills, and good problem solving skills, as well as 
lack of suicidal ideation. Patient demonstrated preserved 
capacity to engage in a meaningful conversation about safety 
planning in the event that thoughts of suicide or self-harm 
arose in the future (e.g. patient would contact her mother who 
has previously encouraged patient to seek help, contact 
therapist, call on-call clinician at school, call ___, or 
present to her local emergency room). Overall, based on the 
totality of our assessment at this time, Ms. ___ is not 
at an acutely elevated risk of harm to self nor danger to 
others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 1 mg PO DAILY 
2. FLUoxetine 60 mg PO DAILY 

 
Discharge Medications:
1.  ARIPiprazole 2 mg PO DAILY 
RX *aripiprazole 2 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
2.  FLUoxetine 60 mg PO DAILY 
RX *fluoxetine 60 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Obsessive Compulsive Disorder; Generalized Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___